US05750793
4-(6-Methoxy-2-naphthyl)butan-2-one
48 Grams (0.150 moles) of 4-(5-bromo-6-methoxy-2-naphthyl)-4-hydroxybut-3-en-2-one, 6.1 g of sodium acetate hydrate containing 32.4% of water, equivalent to 0.050 moles of sodium acetate, 4 g of a 50% suspension in water of 10% palladium on carbon, equivalent to 0.0019 moles of palladium, and 500 ml of methanol are put in a hydrogenator. The hydrogenator is washed with nitrogen in order to eliminate the oxygen and then hydrogen is introduced at the pressure of 2 atmospheres. The temperature of reaction is kept at 40° C. for a period of time of 6 hours, then the hydrogen is let off, the hydrogenator is washed with nitrogen and the reaction mixture is filtered to eliminate the catalyst. The solution is brought to pH 6 with a 5% aqueous solution of sodium hydroxide and concentrated under vacuum. The oily residue is dissolved into 130 ml of isopropanol and 30 ml of N,N-dimethylformamide and the solution is added with 45 ml of water and 17.6 g of sodium bisulfite obtaining a suspension that is stirred for one hour at 60° C., then is cooled to 5° C. and is filtered. The obtained solid is washed with 75 ml of methanol, suspended in 200 ml of a 5% aqueous solution of sodium hydroxide and kept under stirring at room temperature for three hours. The suspension is then filtered, the solid is washed with water until neutrality and dried in oven under vacuum obtaining 18 g of product with a yield equal to 52.8%.

reactant | 4-(5-bromo-6-methoxy-2-naphthyl)-4-hydroxybut-3-en-2-one | 0.150 moles | BrC1=C2C=CC(=CC2=CC=C1OC)C(=CC(C)=O)O | C15H13BrO3
reactant | sodium acetate hydrate | 6.1 g | O.C(C)(=O)[O-].[Na+]
reactant | sodium acetate | 0.050 moles | C(C)(=O)[O-].[Na+]
reactant | hydrogen | [H][H] | H2
solvent | water | O | H2O
catalyst | palladium on carbon | [Pd] | Pd
catalyst | palladium | 0.0019 moles | [Pd] | Pd
solvent | methanol | 500 ml | CO | CH4O
product | 4-(6-Methoxy-2-naphthyl)butan-2-one | 18 g | COC=1C=C2C=CC(=CC2=CC1)CCC(C)=O | C15H16O2
